US05981572
3-(2,3-Dihydrobenzofuran-4-yl)-propanonitrile
A solution of methanesulfonic acid 2-(2,3-dihydrobenzofuran-4-yl)-ethyl ester (1.71 g) in dimethylsulfoxide (14 ml) was treated with sodium cyanide (381 mg) and heated at 80° for 1 h. The suspension was cooled to 20°, diluted with water (14 ml) and extracted with ethyl acetate (2×17 ml). The combined extracts were washed with 5% aqueous sodium chloride (17 ml), dried (Na2SO4) and the solvent evaporated to give the title compound (1.22 g) as a brown oil which crystallised on standing.

reactant | methanesulfonic acid 2-(2,3-dihydrobenzofuran-4-yl)-ethyl ester | 1.71 g | O1CCC2=C1C=CC=C2CCOS(=O)(=O)C | C11H14O4S
reactant | sodium cyanide | 381 mg | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 14 ml | CS(=O)C | C2H6OS
solvent | water | 14 ml | O | H2O
product | 3-(2,3-Dihydrobenzofuran-4-yl)-propanonitrile | 1.22 g | O1CCC2=C1C=CC=C2CCC#N | C11H11NO
